US05039672
3. 6-fluoro-2,3-dihydro-2'-oxo-spiro[4H-benzopyran-4,1'-cyclopentane]
A mixture of 10.6 g (0.038 mol) of Methyl 6-fluoro-2,3-dihydro-2'-oxo-Spiro[4H-benzopyran-4,1'-cyclopentane]-3'-carboxylate in 280 ml of 1N HCl containing 8 ml of concentrated HCl was heated at reflux for 3 hours. The reaction was cooled to room temperature and extracted twice with EtOAc. The combined extracts were dried over NaSO4 and filtered. The filtrate was evaporated in vacuo to a solid residue (5.7 g, 68%) which was recrystallized from petroleum ether: m.p. 49°-51° C. NMR (CDCl3) (delta) 1.7-2.7 (m, 8H, CH2), 4.0-4.5 (m, 2H, CH2), 6.4-6.9 (m, 3H, arom).

reactant | Methyl 6-fluoro-2,3-dihydro-2'-oxo-Spiro[4H-benzopyran-4,1'-cyclopentane]-3'-carboxylate | 0.038 mol, 10.6 g | FC=1C=CC2=C(C1)C1(C(C(CC1)C(=O)OC)=O)CCO2 | C15H15FO4
solvent | HCl | 1N, 280 ml | Cl | ClH
product | 6-fluoro-2,3-dihydro-2'-oxo-spiro[4H-benzopyran-4,1'-cyclopentane] | FC=1C=CC2=C(C1)C1(C(CCC1)=O)CCO2 | C13H13FO2
